US07915427B2
Process A: (2S,4S)-4-fluoro-1-(2-hydroxyacetyl)pyrrolidine-2-carboxamide (381 mg) and trimethylamine hydrochloride (191 mg) were suspended in acetonitrile (10 mL) and triethylamine (0.56 mL) was added to the suspension. While this mixture was cooled in a salt-ice bath, benzenesulfonyl chloride (0.28 mL) was added drop wise. The mixture was stirred for 1 hour at the same temperature, after which water (5 mL) was added and the mixture was extracted with ethyl acetate (2×40 mL). The ethyl acetate extracts were combined, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was purified on a silica gel column (eluant=ethyl acetate:methanol=10:1) to give (2S,4S)-1-[2-(benzenesulfonyloxy)acetyl]-4-fluoropyrrolidine-2-carboxamide as a white solid (528 mg, 80% yield). Process B: (2S,4S)-4-fluoro-1-(2-hydroxyacetyl)pyrrolidine-2-carboxamide (381 mg) was suspended in acetonitrile (10 mL). To this suspension, N,N,N′,N′-tetramethyl-1,3-propanediamine (34.0 μL) and triethylamine (0.56 mL) were added. While the mixture was cooled in a salt-ice bath, benzenesulfonyl chloride (0.28 mL) was added dropwise. The mixture was then stirred at the same temperature for 1 hour, followed by the addition of saturated brine (5 mL) and extraction with ethyl acetate (2×40 mL). The ethyl acetate extracts were combined, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was purified on a silica gel column (eluant=ethyl acetate:methanol=10:1) to give (2S,4S)-1-[2-(benzenesulfonyloxy)acetyl]-4-fluoropyrrolidine-2-carboxamide as a white solid (599 mg, 91% yield). Process C: (2S,4S)-4-fluoro-1-(2-hydroxyacetyl)pyrrolidine-2-carboxamide (100 mg) and triethylamine (74 mg) were suspended in acetonitrile (1 mL). While the suspension was cooled in an ice bath, benzenesulfonic anhydride (188 mg) was added and the mixture was stirred for 10 minutes. Subsequently, the mixture was stirred at room temperature for 1 hour, followed by the addition of water (2 mL) and extraction with ethyl acetate (2×4 mL). The organic layers were combined, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to give (2S,4S)-1-[2-(benzenesulfonyloxy)acetyl]-4-fluoropyrrolidine-2-carboxamide as a brown oil (147 mg, 85% yield).

reactant | (2S,4S)-4-fluoro-1-(2-hydroxyacetyl)pyrrolidine-2-carboxamide | 381 mg | F[C@H]1C[C@H](N(C1)C(CO)=O)C(=O)N | C7H11FN2O3
reactant | N,N,N′,N′-tetramethyl-1,3-propanediamine | 34.0 μL | CN(CCCN(C)C)C | C7H18N2
reactant | triethylamine | 0.56 mL | C(C)N(CC)CC | C6H15N
reactant | benzenesulfonyl chloride | 0.28 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | brine | 5 mL | [Cl-].[Na+].O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
product | (2S,4S)-1-[2-(benzenesulfonyloxy)acetyl]-4-fluoropyrrolidine-2-carboxamide | 599 mg, 91% yield | C1(=CC=CC=C1)S(=O)(=O)OCC(=O)N1[C@@H](C[C@@H](C1)F)C(=O)N | C13H15FN2O5S
